US07307084B2
AO. 7-Benzyloxy-3-methoxymethyl-2-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
10.6 g (29.3 mmol) 4-Benzyloxy-bromo-1-methoxymethyl-2-methyl-1H-benzimidazole, 4.6 g (17.6 mmol) triphenylphosphine, 1.0 g (4.3 mmol) palladium(II) acetate, 148 ml (293 mmol) dimethylamine (2 M in THF) in 50 ml tetrahydrofuran were transferred to an autoclave and carbonylated (6 bar CO2) at 120° C. for 16 h. The catalyst was filtered off and the filtrate was concentrated in vacuo. The purification of the residue by column chromatography on silica gel (dichloromethane/methanol=20:1) afforded 4.9 g (50%) of the title compound as a yellow oil.

reactant | 4-Benzyloxy-bromo-1-methoxymethyl-2-methyl-1H-benzimidazole | 29.3 mmol, 10.6 g | C(C1=CC=CC=C1)OC1=C(C=CC=2N(C(=NC21)C)COC)Br | C17H17BrN2O2
reactant | triphenylphosphine | 17.6 mmol, 4.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylamine | 293 mmol, 2 M, 148 ml | CNC | C2H7N
reactant | CO2 | C(=O)=O | CO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium(II) acetate | 4.3 mmol, 1.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Benzyloxy-3-methoxymethyl-2-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 4.9 g, 50% | CN(C(=O)C1=CC2=C(N=C(N2COC)C)C(=C1)OCC1=CC=CC=C1)C | C20H23N3O3
